US08012606B2
Synthesis of 2,7-bis(N-3-pyridylacetylamino)dibenzodioxin
A slurry prepared from 7.0 g (0.023 mole) of 2,7-bis(acetylamino)dibenzodioxin, 12.0 g (0.059 mole) of 3-iodopyridine, 9.8 g (0.051 mole) of copper (I) iodide, 12.9 g (0.093 mole) of potassium carbonate, and 230 ml of quinoline was heated with stirring at 170° C. for 48 hours. The reaction mixture was cooled to room temperature, 100 ml of methylene chloride and 100 ml of water were added, and a precipitate was separated by filtration. To the filtrate was added 100 ml of water and the organic layer was separated from the aqueous layer. The organic layer was concentrated and dried under reduced pressure to give 23.5 g of a crude product which was used without purification in the next reaction.

reactant | 2,7-bis(acetylamino)dibenzodioxin | 0.023 mole, 7.0 g | C(C)(=O)NC1=CC2=C(OC3=C(O2)C=CC(=C3)NC(C)=O)C=C1 | C16H14N2O4
reactant | 3-iodopyridine | 0.059 mole, 12.0 g | IC=1C=NC=CC1 | C5H4IN
reactant | potassium carbonate | 0.093 mole, 12.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | quinoline | 230 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper (I) iodide | 0.051 mole, 9.8 g | [Cu]I
solvent | water | 100 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2,7-bis(N-3-pyridylacetylamino)dibenzodioxin | 23.5 g | N1=CC(=CC=C1)CC(=O)NC1=CC2=C(OC3=C(O2)C=CC(=C3)NC(CC=3C=NC=CC3)=O)C=C1 | C26H20N4O4
